US05686458
Example 1: Preparation of 2-Chloro-4-(1,2,3,4-Tetrahydroisoquinoline-2-Yl) Quinazoline
10 g Of the compound(50.2 mM) prepared in Preparation 2-1, 70 ml of dichloromethane and 7.8 ml of triethylamine (56 mM) were mixed and 6.4 ml of 1,2,3,4-tetrahydroisoquinoline(50.2 mM) was dropwise added slowly while maintaining the reaction temperature below 10° C., which was stirred at room temperature for 2 hours. The reaction mixture was dried over anhydrous sodium sulfate and concentrated under a reduced pressure. The residue was crystallized to give 14.6 g of the title compound.

reactant | dichloromethane | 70 ml | ClCCl | CH2Cl2
reactant | 1,2,3,4-tetrahydroisoquinoline | 50.2 mM, 6.4 ml | C1NCCC2=CC=CC=C12 | C9H11N
reactant | triethylamine | 56 mM, 7.8 ml | C(C)N(CC)CC | C6H15N
product | 2-Chloro-4-(1,2,3,4-Tetrahydroisoquinoline-2-Yl) Quinazoline | 14.6 g | ClC1=NC2=CC=CC=C2C(=N1)N1CC2=CC=CC=C2CC1 | C17H14ClN3
